* C:\Users\3008h\Desktop\SEMESTER_2\Analog electronic circuits\Project\LTSPICE\Filter - Transient.asc
C1 Vout 0 0.1µ
R1 Vout N001 820
V1 N001 0 SINE(0 1 10k)
.tran 5m
.backanno
.end
