* C:\Users\3008h\Desktop\SEMESTER_2\Analog electronic circuits\Project\LTSPICE\Switch.asc
M1 V_IF N002 N004 0 CMOSN l=0.18u w=1.8u ad=0.81p as=0.81p pd=4.5u ps=4.5u
Vin N004 0 SINE(0 100m 105k)
V_OSC N001 0 SINE(0 1 100k)
V_BIAS N003 0 0.5
R_Bias N003 N002 1Meg
RL V_IF 0 1k
Cc N002 N001 10µ
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\3008h\Documents\LTspiceXVII\lib\cmp\standard.mos
.include TSMC_180nm.txt
.tran 1m
.backanno
.end
